US05087764
Preparation of 4'-heptyloxy-2,3-difluoro-biphenyl-4-carboxylic acid
0.1 mol of 2,3-difluoro-4'-heptyloxybiphenyl is metalated according to 1b). The mixture is stirred for 3 hours at -78° C. and the reaction mixture is then tipped in one swing onto 200 g of pulverized dry ice. The mixture is subsequently worked up as customary.

reactant | 2,3-difluoro-4'-heptyloxybiphenyl | 0.1 mol | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCC | C19H22F2O
reactant | dry ice | 200 g | C(=O)=O | CO2
product | 4'-heptyloxy-2,3-difluoro-biphenyl-4-carboxylic acid | C(CCCCCC)OC1=CC=C(C=C1)C1=C(C(=C(C=C1)C(=O)O)F)F | C20H22F2O3
